US03932465
A solution of 0.8 g of 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid in 4 ml of trifluoroacetic acid is left to stand for 15 minutes at room temperature and is then diluted with an equal quantity of toluene. The volatile constituents are evaporated under reduced pressure and at room temperature. The residue is taken up in 100 ml of chloroform and the mixture is filtered. The filtrate is concentrated to a small volume under reduced pressure and cooled. The resulting solid material is filtered off and yields 7-(N-phenylacetyl-amino)-3-trifluoroacetoxymethyl-ceph-2-em-4ξ-carboxylic acid, melting at 139° - 140°C; infrared absorption spectrum (in mineral oil): characteristic bands at 3.01μ, 5.60μ, 5.65μ, 5.73μ, 5.77μ, 6.02μ and 6.54μ. A further quantity of the desired product can be obtained by further concentration and cooling of the filtrate.

reactant | 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | 0.8 g | C(C)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H18N2O6S
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-(N-phenylacetyl-amino)-3-trifluoroacetoxymethyl-ceph-2-em-4ξ-carboxylic acid | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)COC(C(F)(F)F)=O)C(=O)O)C1=O | C18H15F3N2O6S
